* Z:\mnt\design.r\spice\examples\3495B-1.asc
R1 OUT N003 909K
V1 IN 0 3.6 Rser=0.1
L1 IN N001 10µ
C1 N002 0 2.2µ
C2 OUT 0 1µ
D1 N001 N002 1N5817
Rload OUT 0 500
XU1 0 MP_01 IN IN IN N003 OUT N002 MP_02 N001 LT3495B-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT3495B-1.sub
.backanno
.end
